US04602027
Methyl 4-oxo-3-pivaloylaminovalerate was dissolved in acetic anhydride (15 ml), and concentrated sulfuric acid (1.2 ml) was added dropwise with stirring. The mixture was allowed to stand at room temperature for 20 minutes and heated at 80° C. for 5 minutes. The acetic anhydride was distilled off under reduced pressure and the residue was poured into 50 ml of ice water. The mixture was neutralized with potassium carbonate and extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the oily residue (2.5 g) was stirred in a mixture of ethanol (13 ml) and 2N sodium hydroxide (13 ml) at room temperature for 30 minutes. The reaction mixture was diluted with water, adjusted to pH 2 with hydrochloric acid and extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was treated with hexane to give 2-tert-butyl-5-methyl-4-oxazoleacetic acid as crystals; yield 1.50 g (60.2%). Recrystallization from isopropyl ether gave colorless prisms melting at 121°-122° C.

reactant | Methyl 4-oxo-3-pivaloylaminovalerate | O=C(C(CC(=O)OC)NC(C(C)(C)C)=O)C | C11H19NO4
reactant | sulfuric acid | 1.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-tert-butyl-5-methyl-4-oxazoleacetic acid | C(C)(C)(C)C=1OC(=C(N1)CC(=O)O)C | C10H15NO3
